US04316958
Clostridium acetobutylicum IFO 3346 is inoculated in 100 ml of Potato Dextrose Broth (product of DIFCO Lab.). Air in the fermentor is replaced with sterilized nitrogen gas and the fermentor is sealed. Culturing is carried out at a temperature of 30° C. for 48 hours. After the cultivation, cells are recovered, washed with physiological saline solution and suspended in 2 ml of 1/30 M potassium phosphate buffer (pH 7.0). 0.5 ml of the substrate solution prepared as in Example 5 and the cell suspension are combined and allowed to react at a temperature of 30° C. for 20 hours. The reaction is monitored as in Example 5. (-)-cis-7-[(R)-2-phenyl-2-aminoacetamido]-1-azabicyclo[4,2,0]oct-2-en-8-on-2-carboxylic acid is remained unchanged and only (+)-cis-7-[(R)-2-phenyl-2-aminoacetamido]-1-azabicyclo[4,2,0]oct-2-en-8-on-2-carboxylic acid is decreased. The amount of the decrease is 1.0 mg, producing 0.2 mg of (+)-7-amino-1-azabicyclo[4,2,0]oct-2-en-8-on-2-carboxylic acid.

reactant | Dextrose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | (-)-cis-7-[(R)-2-phenyl-2-aminoacetamido]-1-azabicyclo[4,2,0]oct-2-en-8-on-2-carboxylic acid | C1(=CC=CC=C1)[C@H](C(=O)N[C@@H]1[C@H]2CCC=C(N2C1=O)C(=O)O)N | C16H17N3O4
product | (+)-7-amino-1-azabicyclo[4,2,0]oct-2-en-8-on-2-carboxylic acid | 0.2 mg | NC1C2CCC=C(N2C1=O)C(=O)O | C8H10N2O3
